US08278341B2
2,10-difluoro-6-methoxy-5,7-dihydroindolo[2,3-b]carbazole (1 equiv) in DMF (10 mL/mmol) was cooled in an ice-water bath under argon, and NaH (6 equiv, 60% in mineral oil) was added. The resultant mixture was stirred at 0-5° C. for 30 min and chloroacetonitrile was added. The cooling bath was removed and the reaction was warmed to RT and stirred for 2 h. The reaction was quenched with cold water, extracted ethyl acetate. The extract was washed three times with brine, dried over Na2SO4, filtered, and evaporated to give a solid, which was subjected to chromatography on silica gel. The di-nitrile substituted compound was dissolved in THF and cooled in an ice-water bath. Excess BH3.SMe2 was added to the solution and the resultant mixture was refluxed until reduction was complete (˜3 h), and then quenched with MeOH at 0-5° C. The solvent was evaporated and the residue was subjected to chromatography on silica gel to give 2,2′-(2,10-difluoro-6-methoxyindolo[2,3-b]carbazole-5,7-diyl)diethanamine (45% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.69 (s, 1H), 7.92 (dd, J=12.2, 3.4 Hz, 2H), 7.64 (dd, J=11.6, 5.6 Hz, 2H), 7.25 (td, J=12.4, 3.6 Hz, 2H), 4.55 (t, J=9.2 Hz, 4H), 3.96 (s, 3H), 2.89 (t, J=8.8 Hz, 4H); MS (ESI) m/z 409 (M+H)+.

reactant | 2,10-difluoro-6-methoxy-5,7-dihydroindolo[2,3-b]carbazole | 1 equiv | FC=1C=C2C=3C=C4C(=C(C3NC2=CC1)OC)NC=1C=CC(=CC14)F | C19H12F2N2O
reactant | NaH | 6 equiv | [H-].[Na+]
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
reactant | SMe2 | S(C)C | C2H6S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2,2′-(2,10-difluoro-6-methoxyindolo[2,3-b]carbazole-5,7-diyl)diethanamine | 45% yield | FC=1C=C2C=3C=C4C(=C(C3N(C2=CC1)CCN)OC)N(C=1C=CC(=CC14)F)CCN | C23H22F2N4O
